US04497809
Step A: Preparation of 1-(3-methylpentanoyloxy)ethyl 7β-amino-3-[[[1-(2-dimethylaminoethyl)-1H-tetrazol-5-yl]thio]methyl]ceph-3-em-4-carboxylate.dihydrochloride:
To a solution of 4.22 g of 7β-amino-3-[[[1-(2-dimethylaminoethyl)-1H-tetrazol-5-yl]thio]methyl]ceph-3-em-4-carboxylic acid.dihydrochloride in 60 ml of dimethylformamide, 1.67 g of potassium acetate was added and the mixture was cooled to 0° C. with stirring. To the mixture, 5.0 g of 1-iodoethyl 3-methylvalerate was added dropwise, and the mixture was stirred at 0° C. for 5 minutes. The reaction mixture was then poured into a mixture of 60 ml of dichloromethane and 60 ml of 0.1 NHCl, and the aqueous layer was separated. The aqueous layer was adjusted to pH 6.0 with a saturated aqueous solution of sodium hydrogencarbonate and extracted with dichloromethane. The organic layer was admixed with water and adjusted to pH 2.0 with 4N HCl. The aqueous layer was separated and dichloromethane was removed from the aqueous layer under reduced pressure. The aqueous layer was lyophilized to give 2.83 g of the titled compound.

reactant | 7β-amino-3-[[[1-(2-dimethylaminoethyl)-1H-tetrazol-5-yl]thio]methyl]ceph-3-em-4-carboxylic acid.dihydrochloride | 4.22 g | Cl.Cl.N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCN(C)C)C(=O)O)C1=O
reactant | potassium acetate | 1.67 g | C(C)(=O)[O-].[K+]
reactant | 1-iodoethyl 3-methylvalerate | 5.0 g | CC(CC(=O)OC(C)I)CC | C8H15IO2
reactant | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 1-(3-methylpentanoyloxy)ethyl 7β-amino-3-[[[1-(2-dimethylaminoethyl)-1H-tetrazol-5-yl]thio]methyl]ceph-3-em-4-carboxylate.dihydrochloride | 2.83 g | Cl.Cl.N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCN(C)C)C(=O)OC(C)OC(CC(CC)C)=O)C1=O | InChI=1S/C21H33N7O5S2.2ClH/c1-6-12(2)9-15(29)32-13(3)33-20(31)17-14(10-34-19-16(22)18(30)28(17)19)11-35-21-23-24-25-27(21)8-7-26(4)5;;/h12-13,16,19H,6-11,22H2,1-5H3;2*1H/t12?,13?,16-,19-;;/m1../s1
